US06787536B2
1-{4-[5-(4-Fluorophenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}cyclohexanecarboxylic acid
1-{4-[5-(4-Fluorophenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}-cyclohexanecarboxylic acid methyl ester (0.40 g) and lithium hydroxide monohydrate (0.20 g) were combined in tetrahydrofuran (20 ml), methanol (10 ml) and water (5 ml) and heated to reflux for 10 h. The organic solvents were then removed under reduced pressure. The aqueous residue was diluted with water (20 ml), acidified with citric acid to approximately pH 4, and a white precipitate filtered off. After drying, the precipitated solid was triturated with hot ethyl acetate (30 ml) to provide the title compound as a white solid (0.27 g, 69%).

reactant | 1-{4-[5-(4-Fluorophenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}-cyclohexanecarboxylic acid methyl ester | 0.40 g | COC(=O)C1(CCCCC1)CS(=O)(=O)N1CCN(CC1)C1=NC=C(C=N1)C1=CC=C(C=C1)F | C23H29FN4O4S
reactant | lithium hydroxide monohydrate | 0.20 g | O.[OH-].[Li+]
reactant | methanol | 10 ml | CO | CH4O
reactant | water | 5 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-{4-[5-(4-Fluorophenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}cyclohexanecarboxylic acid | 0.27 g, 69% | FC1=CC=C(C=C1)C=1C=NC(=NC1)N1CCN(CC1)S(=O)(=O)CC1(CCCCC1)C(=O)O | C22H27FN4O4S
